US07160887B1
A mixture of tert-butyl[2-[3-(3-amino-2-pyridyloxy)phenyl]ethyl]carbamate (3.3 g, 10 mmols), ethyl 4-bromobutyrate (2.8 ml, 20 mmols), potassium carbonate (1.4 g, 10 mmols) and N,N-dimethylformamide (30 ml) was stirred at 60° C. for 72 hours. The reaction mixture was cooled, then poured into water, and extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to give an oil of ethyl 4-[2-[3-[2-(tert-butoxycarbonylamino)ethyl]phenoxy]-3-pyridyl]aminobutyrate (2.41 g, 54.4%).

reactant | tert-butyl[2-[3-(3-amino-2-pyridyloxy)phenyl]ethyl]carbamate | 10 mmols, 3.3 g | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)OC1=NC=CC=C1N)=O | C18H23N3O3
reactant | ethyl 4-bromobutyrate | 20 mmols, 2.8 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 10 mmols, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-[2-[3-[2-(tert-butoxycarbonylamino)ethyl]phenoxy]-3-pyridyl]aminobutyrate | 2.41 g, 54.4% | C(C)(C)(C)OC(=O)NCCC=1C=C(OC2=NC=CC=C2NCCCC(=O)OCC)C=CC1 | C24H33N3O5
